US05646154
Protective Effect on Endotoxin-Induced Death in Galactosamine-Treated Mice
D-Galactosamine hydrochloride (hereinbelow abbreviated as D-galN, manufactured by Nakarai Tesque) and LPS were dissolved in water at final concentrations of 75 mg/ml and 0.1 or 0.2 μg/ml, respectively. Furthermore, the hydrochloride of Compound No. 33 in Test Example 1 was dissolved in a 5% dimethylsulfoxide-10% Nikkol (Nippon Surfactant Kogyo) solution at the final concentrations of 0, 0.25, 0.5 and 1 mg/ml, respectively.

reactant | D-Galactosamine hydrochloride | Cl.OC1[C@H](N)[C@@H](O)[C@@H](O)[C@H](O1)CO
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Galactosamine | OC1[C@H](N)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H13NO5
